US07858796B2
(160) 3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-5-phenyl-1H-indole-7-carboxamide
The mixture of 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide (46.0 mg, 0.1 mmol), 0.1 M NaOMe (4 ml) in methanol (2 mL) was refluxed overnight. The reaction mixture was concentrated and purified by reverse phase HPLC (water/CH3CN, 0.1% TFA 10-90%) to give the title compound (20.0 mg, 44%).

reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 0.1 mmol, 46.0 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C23H26ClN3O3S
reactant | NaOMe | 0.1 M, 4 ml | C[O-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | 3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-5-phenyl-1H-indole-7-carboxamide | 20.0 mg, 44% | COCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C24H29N3O4S
